US06800654B2
{[6-(1-Benzyl-3-pentyl-1H-indol-2-yl)-1-bromo-2-naphthyl]oxy}acetonitrile
To a stirred solution of {[1-bromo-6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile (0.135 g, 0.257 mmol) in THF (5 mL) at 0° C. was added KOt-Bu (0.032 g, 0.283 mmol) followed by BnBr (0.019 mL, 0.308 mmol). The reaction was warmed to rt and let stir for 24 h. After this time, the reaction mixture was quenched with 1 N HCl (˜2 mL). The resulting solution was diluted with EtOAc (100 mL). The organic layer was washed with 1 N HCl (10 mL), sat. aq. NaHCO3 (10 mL), and brine (10 mL) and then dried (MgSO4). After concentration, the residue was purified by preparatory plate chromatography (20% EtOAc:petroleum ether) to afford the product (0.1 05 g, 56%) as a solid; 1H NMR (DMSO-d6) δ 0.73 (t, J=7.4 Hz, 3H), 1.09-1.23 (m, 4H), 1.47-1.63 (m, 2H), 2.70 (t, J=7.7 Hz, 2H), 5.34 (s, 2H), 5.46 (s, 2H), 6.81 (d, J=7.4 Hz, 2H), 7.04-7.23 (m, 5H), 7.41 (d, J=8.1 Hz, 1H), 7.62-7.73 (m, 3H), 8.02 (s, 1H), 8.12 (d, J=9.2 Hz, 1H), 8.20 (d, J=9.2 Hz, 1H); mass spectrum [(+) ESI], m/z 537/539 (M+H)+.

reactant | {[1-bromo-6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile | 0.257 mmol, 0.135 g | BrC1=C(C=CC2=CC(=CC=C12)C=1NC2=CC=CC=C2C1CCCCC)OCC#N | C25H23BrN2O
reactant | KOt-Bu | 0.283 mmol, 0.032 g | CC(C)(C)[O-].[K+]
reactant | BnBr | 0.308 mmol, 0.019 mL | C1=CC=C(C=C1)CBr | C7H7Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | {[6-(1-Benzyl-3-pentyl-1H-indol-2-yl)-1-bromo-2-naphthyl]oxy}acetonitrile | C(C1=CC=CC=C1)N1C(=C(C2=CC=CC=C12)CCCCC)C=1C=C2C=CC(=C(C2=CC1)Br)OCC#N | C32H29BrN2O
